US05500406
0.32 g (2.06 mmol) of 2-amino-4,6-dimethoxypyrimidine was dissolved in 40 ml of dry tetrahydrofuran, and the solution was cooled to -40° C. At the same temperature, 0.29 g (2.05 mmol) of chlorosulfonyl isocyanate was dropwise added thereto. Then, the temperature was raised to 0° C. The mixture was cooled again to -40° C., and then a mixed solution comprising 0.4 g (2.56 mmol) of 3,6-dihydro-3-n-propyl-2H-1,3-thiazin-2-imine, 0.26 g (2.57 mmol) of triethylamine and 40 ml of dry tetrahydrofuran, was dropwise added thereto. The mixture was gradually heated to room temperature with stirring, and then the solvent was distilled off under reduced pressure. 100 ml of water was added to the residue, and then the mixture was extracted twice with 50 ml of chloroform. The chloroform layer was washed with water and then dried over anhydrous sodium sulfate. Then, chloroform was distilled off under reduced pressure. Obtained crystals were washed with acetonitrile and then with ethyl ether to obtain 0.3 g of desired 1-(3,6-dihydro-3-n-propyl-2H- 1,3-thiazine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl) urea.

reactant | 2-amino-4,6-dimethoxypyrimidine | 2.06 mmol, 0.32 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 2.05 mmol, 0.29 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3,6-dihydro-3-n-propyl-2H-1,3-thiazin-2-imine | 2.56 mmol, 0.4 g | C(CC)N1C(SCC=C1)=N | C7H12N2S
reactant | triethylamine | 2.57 mmol, 0.26 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(3,6-dihydro-3-n-propyl-2H- 1,3-thiazine-2-sulfonylimino)-3-(4,6-dimethoxypyrimidin-2-yl) urea | 0.3 g | C(CC)N1C(SCC=C1)S(=O)(=O)N=NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H20N6O5S2
